US08247401B2
Step A: tert-Butyl methyl 5-(5-methylpyridin-2-yl)isophthalate
To a solution of tert-butyl methyl 5-bromoisophthalate (10.6 g, 33.6 mmol) and bis(tri-tert-butylphosphine)palladium(0) (0.31 g, 0.61 mmol) in tetrahydrofuran (160 mL) was added 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 121 mL, 60.5 mmol). The reaction mixture was heated to 60° C. After 18 h, the reaction was cooled to ambient temperature. Aqueous ethylenediaminetetraacetic acid tripotassium salt (0.4 M, 100 mL) and dichloromethane (100 mL) were added. The mixture was stirred for 15 min and the organic solvent was evaporated. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (99% hexanes/ethyl acetate→50% hexanes/ethyl acetate) gave the title compound. MS 328.1 (M+1).

reactant | tert-butyl methyl 5-bromoisophthalate | 33.6 mmol, 10.6 g | BrC=1C=C(C=C(C(=O)OC(C)(C)C)C1)C(=O)OC | C13H15BrO4
reactant | 5-methyl-2-pyridylzinc bromide | 60.5 mmol, 0.5 M, 121 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
reactant | ethylenediaminetetraacetic acid tripotassium salt | 0.4 M, 100 mL | [K+].[K+].[K+].C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)O)CC(=O)[O-]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.61 mmol, 0.31 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl methyl 5-(5-methylpyridin-2-yl)isophthalate | CC=1C=CC(=NC1)C=1C=C(C=C(C(=O)OC(C)(C)C)C1)C(=O)OC | C19H21NO4
